US06635618B2
Under nitrogen, to a suspension of potassium carbonate (27 g, 200 mmol) in acetone (100 ml) was added decyl bromide (10 ml, 50 mmol) and mercaptoethanol (4.4 ml, 63 mmol). The suspension was stirred at room temperature for 2 days, then partitioned between water and 80% hexane/ethyl acetate. The organic phase was washed with 2N sodium hydroxide, dried over magnesium sulfate, and the volatiles removed under vacuum to give 2-(decylthio)ethanol (10.2 g, 47 mmol) as a colorless liquid that was used without further purification.

reactant | potassium carbonate | 200 mmol, 27 g | C([O-])([O-])=O.[K+].[K+]
reactant | decyl bromide | 50 mmol, 10 ml | C(CCCCCCCCC)Br | C10H21Br
reactant | mercaptoethanol | 63 mmol, 4.4 ml | SC(C)O | C2H6OS
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | 2-(decylthio)ethanol | 47 mmol, 10.2 g | C(CCCCCCCCC)SCCO | C12H26OS
